US04642308
A mixture composed of 2-amino-7-chloro-1,8-naphthyridine (17.9 g), 2-chlorophenol (51.4 g) and potassium hydroxide pellets (13.2 g; 85% purity) is heated for 4 hours at 120° C. The mixture produced is poured into 4N caustic soda (100 cc), and the precipitate formed is separated by filtration and washed with water until the pH =7. After being dried at 40°C. under reduced pressure (0.067 kPa), 2-amino-7-(2-chlorophenoxy)-1.8 naphthyridine (20.6 g) is produced, m.p. 166° C.

reactant | 2-amino-7-chloro-1,8-naphthyridine | 17.9 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 2-chlorophenol | 51.4 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | potassium hydroxide | [OH-].[K+]
solvent | caustic soda | 4N, 100 cc | [OH-].[Na+]
product | 2-amino-7-(2-chlorophenoxy)-1.8 naphthyridine | 20.6 g | NC1=NC2=NC(=CC=C2C=C1)OC1=C(C=CC=C1)Cl | C14H10ClN3O
